US05360815
Step 1: 4-Butyryl-1,3-dihydroxybenzene
To a solution of resorcinol (1.5 g) and butyric acid (2.9 mL) in 1,2-dichloroethane (45 mL) was added ZnCl2 (3.22 g) and the mixture then heated at 150° C. under nitrogen for 5 hr. The reaction mixture was cooled, poured onto 1N HCl/brine and extracted (3x EtOAc). After washing with 0.1N K2CO3, then twice with brine, the organic layer was dried and evaporated. Chromatography of the residue (silica gel; hexane/EtOAc 2:1) afforded the title product as a solid.

reactant | resorcinol | 1.5 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | butyric acid | 2.9 mL | C(CCC)(=O)O | C4H8O2
reactant | HCl brine | 1N | Cl.[Cl-].[Na+].O
solvent | 1,2-dichloroethane | 45 mL | ClCCCl | C2H4Cl2
catalyst | ZnCl2 | 3.22 g | [Cl-].[Cl-].[Zn+2]
product | 4-Butyryl-1,3-dihydroxybenzene | C(CCC)(=O)C1=C(C=C(C=C1)O)O | C10H12O3
